US04061656
(3-methyl-2-thenyl)triphenyl phosphonium bromide
2-Hydroxymethyl-3-methyl-thiophene (4.5 g.) was dissolved in 90 ml. of acetonitrile and 12.3 g. of triphenylphosphonium bromide were added. The reaction mixture was heated to 70° C. for 3 hours. After cooling the resulting precipitate was filtered off, washed with benzene and dried at 80° C. under high vacuum. The resulting (3-methyl-2-thenyl)triphenylphosphonium bromide has a m.p. 266°-269° C.

reactant | 2-Hydroxymethyl-3-methyl-thiophene | 4.5 g | OCC=1SC=CC1C | C6H8OS
reactant | triphenylphosphonium bromide | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
solvent | acetonitrile | C(C)#N | C2H3N
product | (3-methyl-2-thenyl)triphenyl phosphonium bromide | [Br-].CC1=C(SC=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H22PS.BrH/c1-20-17-18-26-24(20)19-25(21-11-5-2-6-12-21,22-13-7-3-8-14-22)23-15-9-4-10-16-23;/h2-18H,19H2,1H3;1H/q+1;/p-1
